US06333324B1
10% Palladium on carbon (0.8 g) was added to a solution of (2R,5R)-1-benzyl-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine (8.1 g) in AcOH (80 ml), and the mixture was hydrogenated in hydrogen at 3 atm for 4 hours at ambient temperature. The catalyst was removed by filtration through a celite pad and the filtrate was washed with AcOH. The filtrate and combined washings were concentrated in vacuo, and the residue was partitioned by dissolving same in saturated aqueous NaHCO3 solution and AcOEt. The organic layer was washed with NaCl solution, dried over MgSO4, and concentrated in vacuo to give 5.8 g of (2R,5R)-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine as an oil.

reactant | (2R,5R)-1-benzyl-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine | 8.1 g | C(C1=CC=CC=C1)N1[C@H](CN([C@@H](C1)CC(C)C)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C28H40N2O3
catalyst | Palladium on carbon | 0.8 g | [Pd] | Pd
solvent | AcOH | 80 ml | CC(=O)O | C2H4O2
solvent | hydrogen | [H][H] | H2
product | (2R,5R)-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine | 5.8 g | C(C1=CC=CC=C1)OC[C@@H]1NC[C@H](N(C1)C(=O)OC(C)(C)C)CC(C)C | C21H34N2O3
